US08242153B2
To a stirred solution of sodium hydride (1.47 g) in dry tetrahydrofuran (60 ml) was added dropwise under an argon atmosphere a solution of 2-(4-fluorophenyl)-2-propanol (4.35 g) in dry tetrahydrofuran (10 ml). The resulting yellow suspension was stirred at room temperature for 10 min. A solution of allyl bromide (3.1 ml) diluted in dry tetrahydrofuran (10 ml) was added slowly. The reaction mixture was stirred for 30 min and quenched by addition of water. The solution was extracted with ethyl acetate twice. The combined organic layers were dried (MgSO4) and evaporated. The crude product was purified by column chromatography (SiO2; gradient: heptane/EtOAc 100:0→90:10) to give 1-(1-allyloxy-1-methyl-ethyl)-4-fluoro-benzene (3.30 g, 60%) as a light yellow liquid. MS (EI): 179.0 ([M-CH3]).

reactant | sodium hydride | 1.47 g | [H-].[Na+]
reactant | 2-(4-fluorophenyl)-2-propanol | 4.35 g | FC1=CC=C(C=C1)C(C)(C)O | C9H11FO
reactant | allyl bromide | 3.1 ml | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(1-allyloxy-1-methyl-ethyl)-4-fluoro-benzene | 3.30 g, 60% | C(C=C)OC(C)(C)C1=CC=C(C=C1)F | C12H15FO
